US06177429B1
4-(3-Aminophenyl)-1,4-dihydro-2,6-dimethyl-3,5-pyrazinedicarboxylic acid, dimethyl ester
1,4-Dihydro-2,6-dimethyl-4-(3-nitrophenyl)-3,5-pyrazinedi-carboxylic acid, dimethyl ester (219 mg, 0.63 mmol) was dissolved in 30 mL methanol containing 3 mL of water in a flask equipped with a mechanical stirrer. Iron powder (300 mg) was added, followed by one drop of 37% hydrochloric acid. The whole mixture was refluxed moderately with mechanical stirring for 3.5 hours. Usual extractive work up furnished the title compound as yellow solid (176 mg, 88%): mp 212-213° C.; 1H-NMR (CDCl3) δ 6.91 (t, 1H, J=8.0 Hz), 6.20 (dd, 1H, J=7.8, 2.0 Hz), 6.11 (dd, 1H, J=8.2, 2.3 Hz), 6.00 (t, 1H, J=2.2 Hz), 5.93 (s, 1H), 3.77 (s, 6H), and 2.38 (s, 6H); 13C-NMR (CDCl3) δ 166.8, 152.0, 148.5, 146.9, 129.6, 109.5, 107.8, 104.2, 100.3, 51.8, and 17.9.

reactant | 1,4-Dihydro-2,6-dimethyl-4-(3-nitrophenyl)-3,5-pyrazinedi-carboxylic acid, dimethyl ester | 0.63 mmol, 219 mg | CC=1NC(=C(N(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C16H17N3O6
solvent | methanol | 30 mL | CO | CH4O
solvent | water | O | H2O
catalyst | hydrochloric acid | one drop | Cl | ClH
catalyst | Iron | 300 mg | [Fe] | Fe
product | 4-(3-Aminophenyl)-1,4-dihydro-2,6-dimethyl-3,5-pyrazinedicarboxylic acid, dimethyl ester | 176 mg, 88% | NC=1C=C(C=CC1)N1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OC | C16H19N3O4
